US04808623
3.05 G (0.007 mol) of 5-amino-4-ethoxycarbonyl-3-trifluoromethyl-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole in 14 ml of concentrated sulphuric acid are heated at 75° C. for 5 hours. After the mixture has been cooled to room temperature, it is diluted with ice-water and filtered with suction. 2.45 g (86% of theory) of 5-amino-4-hydroxycarbonyl-3-trifluoromethyl-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole of melting point 191° C.-195° C. (decomposition) are obtained.

reactant | 5-amino-4-ethoxycarbonyl-3-trifluoromethyl-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | 0.007 mol | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(F)(F)F)C(=O)OCC | C14H9Cl2F6N3O2
solvent | sulphuric acid | 14 ml | S(O)(O)(=O)=O | H2O4S
product | 5-amino-4-hydroxycarbonyl-3-trifluoromethyl-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | 2.45 g, 86% | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(F)(F)F)C(=O)O | C12H5Cl2F6N3O2
